US04030932
3-Ethyl-5-{2-ethyl-3-[(3-ethylbenzothiazolin-2-ylidene) ethylidene]isoindol-1(3H)-ylidene}-rhodanine
2-[2-(2-Ethyl-3-methoxyisoindol-1-yl)vinyl]-3-ethylbenzothiazolium perchlorate (0.5 g) and 3-ethylrhodanine (0.3 g) were dissolved in a 1:1 acetronitrile/methanol solution. Triethylamine was added and the reaction mixture heated to reflux for 10 minutes. The dyes which separated out was dissolved in chloroform and passed through a column of silica gel. After recrystallization from a mixture of chloroform and methanol the dye melted at 252°-253° C. pyridine/methanol λ max 661 nm.

reactant | 2-[2-(2-Ethyl-3-methoxyisoindol-1-yl)vinyl]-3-ethylbenzothiazolium perchlorate | 0.5 g | Cl(=O)(=O)(=O)[O-].C(C)N1C(=C2C=CC=CC2=C1OC)C=CC=1SC2=C([N+]1CC)C=CC=C2
reactant | 3-ethylrhodanine | 0.3 g | C(C)N1C(SCC1=O)=S | C5H7NOS2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 3-Ethyl-5-{2-ethyl-3-[(3-ethylbenzothiazolin-2-ylidene) ethylidene]isoindol-1(3H)-ylidene}-rhodanine | C(C)N1C(SC(C1=O)=C1N(C(C2=CC=CC=C12)=CC=C1SC2=C(N1CC)C=CC=C2)CC)=S | C26H25N3OS3
